US07208481B2
Tetraethyl N-(2-pyridylmethyl)aminomethylenediphosphonate
A mixture of 2-pyridinecarboxaldehyde (1.23 g, 11.5 mmol), tetraethyl aminomethylenediphosphonate (3.0 g, 9.9 mmol) and a catalytic amount of p-toluenesulfonic acid dissolved in 10 ml toluene was heated to reflux for 7 h. Toluene was evaporated and the residue dissolved in ethanol was submitted for 12 h to catalytic hydrogenation with 10% palladium on charcoal. Ethanol was evaporated and the title compound was obtained as an oil (1.30 g, 33%) by column chromatography (silica gel, CH2Cl2/MeOH 9/1).

reactant | 2-pyridinecarboxaldehyde | 11.5 mmol, 1.23 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | tetraethyl aminomethylenediphosphonate | 9.9 mmol, 3.0 g | NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C9H23NO6P2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Tetraethyl N-(2-pyridylmethyl)aminomethylenediphosphonate | N1=C(C=CC=C1)CNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C15H28N2O6P2
